US09359286B2
To a stirred solution of (R)-2-hexyl-6-iodo-3,4-dihydronaphthalen-1(2H)-one (I-8C, 21.6 g, 60.6 mmol) in dichloromethane (10 mL) and 100% EtOH (100 mL) was added sodium borohydride (4.59 g, 121 mmol) portionwise. The mixture was stirred at room temperature for 2 h before being quenched by adding acetone slowly (cooled with water bath). The mixture was concentrated under reduced pressure. The residue was mixed with saturated aqueous ammonium chloride solution (100 mL) and water (50 mL) and extracted with ethyl acetate (100 mL, 2×50 mL). The combined ethyl acetate extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oil. The oil was dissolved in triethylsilane (70 mL, 438 mmol). TFA (100 mL, 1298 mmol) was added with vigorous stirring. The mixture was stirred at room temperature under nitrogen for 2.5 h. After water (150 mL) was added, the mixture was extracted with hexanes (100 mL, 2×50 mL). The combined extracts were washed with water (50 mL) and then saturated aqueous sodium bicarbonate solution (50 mL), dried over anhydrous sodium sulfate, and concentrated to give a yellow liquid. Flash chromatography purification (330 g silica gel column, gradient elution from 0 to 12% EtOAc in hexanes) afforded (R)-2-hexyl-6-iodo-1,2,3,4-tetrahydronaphthalene (18.4 g, 53.8 mmol) as a colorless liquid. 1H NMR (400 MHz, chloroform-d) δ 7.41 (s, 1H), 7.38 (dd, J=7.9, 1.8 Hz, 1H), 6.79 (d, J=8.1 Hz, 1H), 2.82-2.71 (m, 3H), 2.31 (dd, J=16.5, 10.6 Hz, 1H), 1.93-1.85 (m, 1H), 1.72-1.60 (m, 1H), 1.41-1.24 (m, 11H), 0.92-0.85 (m, 3H). Chiral SFC separation (CHIRALPAK® AS-H 25×3.0 cm, 5 μm, CO2/MeOH=95/5, 180 mL/min, 230 nm) gave (R)-2-hexyl-6-iodo-1,2,3,4-tetrahydronaphthalene (11.8 g, PK2) and its (S)-isomer (1.4 g, PK1) as liquids.

reactant | (R)-2-hexyl-6-iodo-3,4-dihydronaphthalen-1(2H)-one | 60.6 mmol, 21.6 g | C(CCCCC)[C@H]1C(C2=CC=C(C=C2CC1)I)=O | C16H21IO
reactant | sodium borohydride | 121 mmol, 4.59 g | [BH4-].[Na+]
reactant | triethylsilane | 438 mmol, 70 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 1298 mmol, 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | water | 150 mL | O | H2O
product | (R)-2-hexyl-6-iodo-1,2,3,4-tetrahydronaphthalene | 53.8 mmol, 18.4 g | C(CCCCC)[C@H]1CC2=CC=C(C=C2CC1)I | C16H23I
